US08217032B2
7-Fluoro-5-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-5H-6-oxa-chrysen-2-ol hydrochloride
Charge a flask with R-methyl CBS reagent (50 m, 0.18 mmol) dissolved in 100 mL dioxane and warm to 45° C. Dissolve [2-(2,3-difluoro-phenyl)-6-hydroxy-naphthalen-1-yl]-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanone (400 mg, 0.82 mmol) in 100 mL of dioxane and add dropwise to the reaction mixture over a two hour period. Continue heating at 45° C. under nitrogen overnight and add lithium triethylborohydride (15 mL of 1.0 M solution in THF, 15 mmol) and heat reaction to 100° C. for 24 hours. Cool the reaction mixture and add 25 mL of isopropanol to quench the reaction. Evaporate the reaction to an oil and add saturated sodium bicarbonate and a 3/1 mixture of chloroform/isopropanol. Extract in a separatory funnel and remove the organic layer. Dry the organic layer over 3 Å molecular sieves, evaporate to a paste and purify on a silica column eluting with 0-10% methanol/methylene chloride. Convert the isolated product to the HCl salt using HCl in ether to give 145 mg (35%) of the title compound. The two enantiomers are separated using chiral chromatography (Conditions D). The preferred isomer eluted second with a retention time of 16.5 minutes (98 mgs).

reactant | [2-(2,3-difluoro-phenyl)-6-hydroxy-naphthalen-1-yl]-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanone | 0.82 mmol, 400 mg | FC1=C(C=CC=C1F)C1=C(C2=CC=C(C=C2C=C1)O)C(=O)C1=CC=C(C=C1)OCCN1CCCCC1 | C30H27F2NO3
reactant | lithium triethylborohydride | 15 mmol, 1.0 M, 15 mL | C(C)[BH-](CC)CC.[Li+]
reactant | isopropanol | 25 mL | C(C)(C)O | C3H8O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | chloroform isopropanol | C(Cl)(Cl)Cl.C(C)(C)O
solvent | dioxane | 100 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 100 mL | O1CCOCC1 | C4H8O2
product | 7-Fluoro-5-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-5H-6-oxa-chrysen-2-ol hydrochloride | 145 mg, 35% | Cl.FC1=C2OC(C3=C4C=CC(=CC4=CC=C3C2=CC=C1)O)C1=CC=C(C=C1)OCCN1CCCCC1 | InChI=1S/C30H28FNO3.ClH/c31-27-6-4-5-26-25-13-9-21-19-22(33)10-14-24(21)28(25)29(35-30(26)27)20-7-11-23(12-8-20)34-18-17-32-15-2-1-3-16-32;/h4-14,19,29,33H,1-3,15-18H2;1H
